US04655824
2 Chloro-6-methoxycarbonyl-4-(2 chloro-4-trifluoromethylphenoxy)-pyridine
A mixture consisting of 2.06 gm (0.01 mol) of methyl 4,6-dichloro-picolinate, 2.15 gm (0.011 mol) of chloro-4-trifluoromethyl-phenol, 1.5 gm of pulverized potassium carbonate and 5 ml of dimethylformamide was heated at 120° C. for one hour, while stirring. The mixture solidified. The solid mass was stirred and decanted several times with ice water, then acidified with acetic acid, and finally extracted with ethyl acetate. The organic phase was separated, washed with water and dried with sodium sulfate. The solvent was distilled off, and the residual oil was purified by chromatography on 40 gm of silicagel (eluant: Diisopropyl ether). 1.4 gm (38% of theory) of the title compound were obtained as a virtually colorless oil. Rf -value: 0.48 (prepared thin-layer chromatography plates manufactured by E. Merck, Darmstadt, Germany, with silicagel 60-F-254 Eluant: Acetone/diisopropyl ether 1:2; the spots are visible in ultraviolet light at 254 μm).

reactant | methyl 4,6-dichloro-picolinate | 0.01 mol, 2.06 gm | ClC1=CC(=NC(=C1)Cl)C(=O)OC | C7H5Cl2NO2
reactant | chloro-4-trifluoromethyl-phenol | 0.011 mol, 2.15 gm | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 1.5 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Chloro-6-methoxycarbonyl-4-(2 chloro-4-trifluoromethylphenoxy)-pyridine | ClC1=NC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)C(=O)OC | C14H8Cl2F3NO3
